2151-10-25 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-10-24**] 01:17 PM
 MULTI LUMEN - STOP [**2151-10-24**] 01:21 PM
 FEVER - 101.3
F - [**2151-10-24**] 07:00 PM
   - Broadened coverage to Vanc, PO Vanc, Flagyl, Ceftriaxone
   - Patient with episode of A-fib RVR requiring 2 doses 5mg lopressor
   - Spiked temp to 101.3, cultures already sent, so given tylenol
   - D/c'ed Spiriva and started atrovent nebs
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-24**] 01:17 PM
   Vancomycin - [**2151-10-24**] 01:17 PM
   Metronidazole - [**2151-10-25**] 01:22 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-10-24**] 08:42 AM
   Heparin Sodium (Prophylaxis) - [**2151-10-24**] 04:53 PM
   Metoprolol - [**2151-10-24**] 07:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.9
C (100.3
   HR: 104 (90 - 132) bpm
   BP: 96/44(55) {79/29(39) - 121/75(107)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,391 mL
                                                                    293 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,031 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   10.2 g/dL
   150 mg/dL
   4.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   33.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
   WBC
   14.9
   12.7
   Hct
   34.8
   33.1
   Plt
   309
   277
   Cr
   6.1
   4.8
   TropT
   0.09
   Glucose
   150
   Other labs: PT / PTT / INR:22.8/32.2/2.2, CK / CKMB /
   Troponin-T:49/3/0.09, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   This is a 71 year old male s/p recent admission where he was C.diff
   positive, found to have cellulitis and was treated for presumptive PNA
   who is admitted to the ICU for hypotension in the setting of fever,
   persistent diarrhea, and an episode of depressed MS.
   [**Name13 (STitle) 440**]:
   # Fevers/ WBC count: Hypotension resolved quickly with fluids.
   Possible source for sepsis C.diff. He also has cellulitis of LLE though
   it appears to be stable.  Coverage was broadened yesterday to IV and PO
   Vanc, Ceftriaxone, and flagyl
   - continue IV Vanc and ceftriaxone for cellulitis and PNA
   - continue PO vanc for c.diff
   - continue Levo IV for now for hospital acquired PNA
   - Consider broadening coverage given persistant fevers.
   - Follow-up blood, urine, stool and sputum cultures
   - Trend WBC count fever curve
   # Depressed MS: likely due to hypovolemia/infection in the setting of
   persistent diarrhea. Currently is oriented x 3 w/o any focal neuro
   deficits.
   - consider CT head
   - treat diarrhea and infections
   .
   # Diastolic CHF: last TTE w/EF 50%, currently appears hypovolemic on
   exam, but w/pulmonary edema on most recent CXR
   - closely monitor fluid status, lung exam
   - check CVP
   - restart BB once BP stable
   - consider diuresis in AM
   .
   # CAD: s/p CABG, cardiac enzymes elevated but stable from 1 week prior.
   EKG remains stable.
   - Aspirin/statin, hold BB in setting of hypotension
   - ROMI protocol
   - consider addition of ACE-I per renal recs
   .
   # Diabetic foot ulcers: lotion, podiatry c/s in AM
   .
   # ESRD: s/p failed cadaveric transplant on HD MWF
   - renally dose meds
   - continue prednisone, cyclosporine
   - transplant renal c/s in AM
   .
   # COPD: continue tiotropium, flovent, albuterol nebs prn
   .
   # Afib: on coumadin, monitor INR
   .
   # DM2: continue home NPH and SSI
   .
   # FEN:  regular cardiac/diabetic/renal diet
   .
   # PPX:  Coumadin, PPI
   .
   # Code: DNR/DNI
   # Comm: [**First Name8 (NamePattern2) 6618**] [**Name (NI) 6619**] Wife/HCP  Phone: [**Telephone/Fax (1) 6620**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-23**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2151-10-25 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-10-24**] 01:17 PM
 MULTI LUMEN - STOP [**2151-10-24**] 01:21 PM
 FEVER - 101.3
F - [**2151-10-24**] 07:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-24**] 01:17 PM
   Vancomycin - [**2151-10-24**] 01:17 PM
   Metronidazole - [**2151-10-25**] 08:11 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2151-10-24**] 07:08 PM
   Dextrose 50% - [**2151-10-25**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2151-10-25**] 08:00 AM
   Other medications:
   Med list review - see med list
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-25**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 117 (90 - 138) bpm
   BP: 98/47(57) {79/29(39) - 121/99(107)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,391 mL
                                                                    870 mL
   PO:
                                                                    360 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  1,031 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   277 K/uL
   40 mg/dL
   4.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   33.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
   WBC
   14.9
   12.7
   Hct
   34.8
   33.1
   Plt
   309
   277
   Cr
   6.1
   4.8
   TropT
   0.09
   Glucose
   150
   40
   Other labs: PT / PTT / INR:24.4/38.7/2.4, CK / CKMB /
   Troponin-T:49/3/0.09, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   1)       Fever/sepsis
   Differential Diagnosis: C. Dif, left leg cellulitis, and pnuemonia,
   access for dialysis, sputum
   Plan:
   -          Continue
   -          Flagyl, PO/IV Vanco, Zosyn
   2)       ? COPD
   3)       ESRD
   4)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 30

2151-10-26 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2151-10-25**] 08:55 AM
 EKG - At [**2151-10-25**] 10:29 AM
 URINE CULTURE - At [**2151-10-25**] 11:10 AM
 ULTRASOUND - At [**2151-10-25**] 01:00 PM
 FEVER - 101.7
F - [**2151-10-25**] 08:00 PM
   - Underwent RUE U/S
   - Seen by I.D. with subsequent changes to antibiotics
   - Tm 101.7 (ax), cultures sent
   - AF with RVR to 170's briefly, given Metoprolol 5mg IV x2, the
   restarted on Metoprolol 25mg PO TID
   - Hypotensive to 60s/30s overnight, asymptomatic, responded with total
   of 1.75L NS in boluses
   - Made NPO past MN for potential bronch
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-25**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-10-25**] 12:09 PM
   Cefipime - [**2151-10-25**] 02:48 PM
   Metronidazole - [**2151-10-26**] 12:43 AM
   Vancomycin - [**2151-10-26**] 12:43 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-10-25**] 07:41 AM
   Coumadin (Warfarin) - [**2151-10-25**] 04:15 PM
   Metoprolol - [**2151-10-25**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2151-10-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-26**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.5
C (99.5
   HR: 96 (91 - 165) bpm
   BP: 99/52(63) {76/33(44) - 165/118(103)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,608 mL
                                                                  1,613 mL
   PO:
                                                                  1,140 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,443 mL
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                      0 mL
   Urine:
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,513 mL
                                                                  1,613 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: NAD, AOx3
   CV: RRR, no M/R/G
   Pulm: Difuse crackles, prolonged expiratory phase, occasional
   expiratory wheeze
   Abd: soft, nt, nd, BS +
   Extr: Chronic venous stasis bilat, LL warm and erythematous stable from
   yesterday, L foot with bandage C/D/I
   Labs / Radiology
   256 K/uL
   10.4 g/dL
   35 mg/dL
   5.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   48 mg/dL
   102 mEq/L
   138 mEq/L
   32.9 %
   14.3 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
                            [**2151-10-26**]  04:40 AM
   WBC
   14.9
   12.7
   14.3
   Hct
   34.8
   33.1
   32.9
   Plt
   [**Telephone/Fax (3) 6660**]
   Cr
   6.1
   4.8
   5.8
   TropT
   0.09
   Glucose
   150
   40
   35
   Other labs: PT / PTT / INR:27.8/44.0/2.8, CK / CKMB /
   Troponin-T:49/3/0.09, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   IMAGING:
   CT CHEST/ABD/PELV:
   Wet read:
   1. Patchy opacity in the bilateral lung bases, worrisome for
   aspiration/pneumonia. Small left pleural effusion.
   2. Bowel wall thickening involving the cecum, which may relate to
   cecitis or
   in an immunocompromised patient, typhlitis.
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 HYPOGLYCEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   This is a 71 year old male s/p recent admission where he was C.diff
   positive, found to have cellulitis and was treated for presumptive PNA
   who is admitted to the ICU for hypotension in the setting of fever,
   persistent diarrhea, and an episode of depressed MS.
   [**Name13 (STitle) 440**]:
   # Fevers/ WBC count: Continues to spike despite broadened coverager.
   Hypotensive overnight requiring 1.75L resuscitation
 assymptomatic
   with low BP.  Possible source for sepsis C.diff. He also has cellulitis
   of LLE though it appears to be stable.  Coverage was broadened
   yesterday to IV and PO Vanc, cefipime and flagyl (flagyl added back
   after CT Chest results)
   - Defer Bronchoscopy today
   - continue cefipime for HAP
   - Continue IV Vanc for cellulitis
   - continue PO vanc and flagyl for c.diff
   - Follow-up blood, urine, stool cx
   - Obtain sputum culture today
 induced for PCP as well
   - Trend WBC count fever curve
   - f/u ID recs
   .
   # Hypotestion:  Unclear etiology at this point.  Has been in relation
   to fevers, tachycardia and dialysis.  We are currently treating septic
   causes as above.  Other causes may be cardiogenic (enzymes have been
   negative), hypovolemic (has been assymptomtic), or adrenal
   insufficiency (chronic prednisone)
   - Echo today
   - Repeat CE
   - Give IV solumedrol for stress dose steroids
   .
   # COPD:  patient continues to be quite wheezy
   - continue flovent, albuterol nebs prn
   - Solumedrol as above for ? adrenal insufficiency should also help with
   ? flare
   .
   # Diabetic foot ulcers: lotion,
   - f/u podiatry
   .
   # ESRD: s/p failed cadaveric transplant on HD MWF
   - renally dose meds
   - continue prednisone, cyclosporine
   - Consider discussion with transplant team about immuno suppression
   .
   # Diastolic CHF: last TTE w/EF 50%, currently appears euvolemic on
   exam,
   -  Continue BB
   .
   # CAD: s/p CABG, cardiac enzymes elevated but stable from 1 week prior.
   EKG remains stable.
   - Aspirin/statin, and BB
   .
   # Afib: on coumadin, monitor INR
   .
   # DM2: continue home NPH and SSI
   .
   # FEN:  regular cardiac/diabetic/renal diet
   .
   # PPX:  Coumadin, PPI
   .
   # Code: DNR/DNI
   # Comm: [**First Name8 (NamePattern2) 6618**] [**Name (NI) 6619**] Wife/HCP  Phone: [**Telephone/Fax (1) 6620**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-23**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2151-10-26 11:46:00 Physician Attending Progress Note
Chief Complaint: Fever/Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had another temperature spike.  Intermittently low blood
   pressure which is currently improved.  Patient has no new complaints.
   24 Hour Events:
 STOOL CULTURE - At [**2151-10-25**] 08:55 AM
 EKG - At [**2151-10-25**] 10:29 AM
 URINE CULTURE - At [**2151-10-25**] 11:10 AM
 ULTRASOUND - At [**2151-10-25**] 01:00 PM
 FEVER - 101.7
F - [**2151-10-25**] 08:00 PM
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-25**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-10-25**] 12:09 PM
   Cefipime - [**2151-10-25**] 02:48 PM
   Vancomycin - [**2151-10-26**] 12:43 AM
   Metronidazole - [**2151-10-26**] 08:39 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2151-10-25**] 04:15 PM
   Metoprolol - [**2151-10-25**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2151-10-26**] 08:39 AM
   Dextrose 50% - [**2151-10-26**] 10:05 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-26**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 102 (91 - 165) bpm
   BP: 95/51(68) {76/33(44) - 165/118(100)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,608 mL
                                                                  1,784 mL
   PO:
                                                                  1,140 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,443 mL
                                                                  1,559 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                      0 mL
   Urine:
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,513 mL
                                                                  1,784 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Awake, alert, NAD
   Chest: Wheeze bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: no focal neuro findings
   Labs / Radiology
   10.4 g/dL
   256 K/uL
   35 mg/dL
   5.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   48 mg/dL
   102 mEq/L
   138 mEq/L
   32.9 %
   14.3 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
                            [**2151-10-26**]  04:40 AM
   WBC
   14.9
   12.7
   14.3
   Hct
   34.8
   33.1
   32.9
   Plt
   [**Telephone/Fax (3) 6660**]
   Cr
   6.1
   4.8
   5.8
   TropT
   0.09
   Glucose
   150
   40
   35
   Other labs: PT / PTT / INR:27.8/44.0/2.8, CK / CKMB /
   Troponin-T:49/3/0.09, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 HYPOGLYCEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   1) Fever: unclear exact sources
 may be pneumonia, cellulitis (leg),
   C. diff
   - Continue Cefepime, Flagyl, Vanco IV/PO
   - Induced sputum for PCP and general culture
   2) Hypotension - intermittent
   - now improved although still borderline hypotensive.  Unclear if
   related to sepsis or if related to adrenal insufficiency in a patient
   on chronic steroids now with sepsis.  Because of significant
   bronchospasm, we are going to give solumedrol anyhow for that
   indication so will see if this improves blood pressure as well.
   Continue to treat underlying infection as above.  Also, will check an
   ECHO to evaluate for other causes of hypotension such as pericardial
   effusion
   3) Pneumonia/bronchospasm: continue antibiotic therapy,
   albuterol/atrovent for wheeze and now will add steroids as well
   4) ESRD: Receiving HD but will keep even
   -
   5) DNI/DNR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2151-10-27 07:55:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 FEVER - 101.7
F - [**2151-10-26**] 08:00 AM
 Underwent HD yesterday w/o fluid removal due to low BP
 Stopped coumadin for potential biopsy of transplanted kidney
 Started on steroids for bronchospasm/copd, possible
 UE u/s with ?hematoma of fistula
 CT torso with  Patchy opacity in the bilateral lung bases, worrisome
   for aspiration/ pneumonia. Bowel wall thickening
        involving the cecum, which may relate to cecitis or in an
   immunocompromised patient, typhlitis.
 Cx with NGTD
   History obtained from Patient
   Allergies:
   History obtained from PatientMevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-25**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-10-25**] 12:09 PM
   Cefipime - [**2151-10-26**] 04:30 PM
   Metronidazole - [**2151-10-27**] 12:14 AM
   Vancomycin - [**2151-10-27**] 12:14 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-10-26**] 10:05 AM
   Heparin Sodium (Prophylaxis) - [**2151-10-27**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-10-27**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.7
C (98
   HR: 99 (97 - 119) bpm
   BP: 109/60(72) {76/37(52) - 122/72(89)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,965 mL
                                                                    135 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,740 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,965 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, cool LE with extensive venous stasis changes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   10.0 g/dL
   218 mg/dL
   4.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   36 mg/dL
   104 mEq/L
   139 mEq/L
   33.1 %
   6.5 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
                            [**2151-10-26**]  04:40 AM
                            [**2151-10-26**]  09:54 AM
                            [**2151-10-26**]  06:28 PM
                            [**2151-10-27**]  04:38 AM
   WBC
   14.9
   12.7
   14.3
   6.5
   Hct
   34.8
   33.1
   32.9
   33.1
   Plt
   [**Telephone/Fax (3) 6695**]39
   Cr
   6.1
   4.8
   5.8
   3.9
   4.5
   TropT
   0.09
   0.12
   0.10
   Glucose
   150
   40
   35
   216
   218
   Other labs: PT / PTT / INR:33.0/50.4/3.4, CK / CKMB /
   Troponin-T:290/3/0.10, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 HYPOGLYCEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Assesment: This is a 71 year old male s/p recent admission where he was
   C.diff positive, found to have cellulitis and was treated for
   presumptive PNA who is admitted to the ICU for hypotension in the
   setting of fever, persistent diarrhea, and an episode of depressed MS.
   [**Name13 (STitle) 440**]:
   # Hypotension:  Resolved, BP  stable.  Restarted on BB.
   .
   Hypovolemia and possible SIRS in the setting of leukocytosis and fever.
   Possible source for sepsis C.diff. He also has cellulitis of LLE though
   it appears to be stable.
   - Central venous line
   - IV fluids to goal CVP 8-12
   - continue IV Vanc for cellulitis and PNA
   - continue PO vanc for c.diff
   - continue Levo IV for now for hospital acquired PNA
   - Follow-up blood, urine, stool and sputum cultures
   - Trend WBC count fever curve
   .
   # Depressed MS:  Currently is oriented x 3 w/o any focal neuro
   deficits.
   .
   # Diastolic CHF: last TTE w/EF 50%,
   - closely monitor fluid status, lung exam
   - check CVP
   - restart BB once BP stable
   - consider diuresis in AM
   .
   # CAD: s/p CABG, cardiac enzymes elevated but stable from 1 week prior.
   EKG remains stable.
   - Aspirin/statin, hold BB in setting of hypotension
   - ROMI protocol
   - consider addition of ACE-I per renal recs
   .
   # Diabetic foot ulcers: lotion,
   .
   # ESRD: s/p failed cadaveric transplant on HD MWF
   - renally dose meds
   - continue prednisone, cyclosporine
   - transplant renal c/s in AM
   .
   # COPD: continue tiotropium, flovent, albuterol nebs prn
   .
    Afib: coumadin on hold for possible renal biopsy monitor INR
   .
   # DM2: continue home NPH and SSI
   # FEN:  regular cardiac/diabetic/renal diet
   .
   # PPX:  PPI
   .
   # Code: DNR/DNI
   # Comm: [**First Name8 (NamePattern2) 6618**] [**Name (NI) 6619**] Wife/HCP  Phone: [**Telephone/Fax (1) 6620**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-24**] 07:06 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2151-10-27 10:56:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, did well with no new complaints.  No fevers since yesterday
   at 8:00 AM.
   24 Hour Events:
 FEVER - 101.7
F - [**2151-10-26**] 08:00 AM....No fevers since that time...
                         History obtained from [**Hospital 85**] Medical records
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-25**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-10-25**] 12:09 PM
   Cefipime - [**2151-10-26**] 04:30 PM
   Vancomycin - [**2151-10-27**] 12:14 AM
   Metronidazole - [**2151-10-27**] 07:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-10-27**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-27**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 97 (97 - 119) bpm
   BP: 107/56(67) {83/42(52) - 122/72(89)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,966 mL
                                                                    305 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,741 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,966 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   239 K/uL
   218 mg/dL
   4.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   36 mg/dL
   104 mEq/L
   139 mEq/L
   33.1 %
   6.5 K/uL
        [image002.jpg]
                            [**2151-10-23**]  11:27 PM
                            [**2151-10-24**]  04:33 AM
                            [**2151-10-25**]  05:47 AM
                            [**2151-10-26**]  04:40 AM
                            [**2151-10-26**]  09:54 AM
                            [**2151-10-26**]  06:28 PM
                            [**2151-10-27**]  04:38 AM
   WBC
   14.9
   12.7
   14.3
   6.5
   Hct
   34.8
   33.1
   32.9
   33.1
   Plt
   [**Telephone/Fax (3) 6695**]39
   Cr
   6.1
   4.8
   5.8
   3.9
   4.5
   TropT
   0.09
   0.12
   0.10
   Glucose
   150
   40
   35
   216
   218
   Other labs: PT / PTT / INR:33.0/50.4/3.4, CK / CKMB /
   Troponin-T:290/3/0.10, Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:4.3
   %, Eos:0.7 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 HYPOGLYCEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   1) Fever: No fevers since 8:00 AM yesterday and feels much improved
   today.  The most likely etiology of his fevers are aspiration pneumonia
   - attempting another induced sputum this morning
   2) Hypoxia (likely secondary to pneumonia and reactive airways):
   improved overnight and now wheezing has improved as well.  Given
   improvement in wheezing and respiratory status after initiating
   steroids, there most likely was a reactive obstructive airways
   component to what is likely an underlying pneumonia (likely aspiration)
   Plan:
   - Continue antibiotics (Vanco, Cefepime)
   - continue atrovent, albuterol as needed for wheeze
   - Begin to wean steroids
   - have been reluctant to perform bronchoscopy as his acute respiratory
   condition may have led to need for intubation and patient is DNR/DNI.
   As condition is improving, I am not sure of the value of a bronchoscopy
   versus the risks of performing the procedure during acute illness.
   3) ESRD
   - Discuss with nephrology plan for HD today
   4)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-24**] 07:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 35
   Addendum: Discussed with ID about bronchoscopy and ID relates concern
   for nocardia which they relate may be contributing to long-term
   pulmonary infectious issues but do not believe that this is cause of
   acute decompensation.  Thus, bronchoscopy is not emergent but would
   like consideration during hospitalization if respiratory status allows
   for non-intubated bronchoscopy.  Given improvement in respiratory
   status, may be safe for bronchoscopy but will still need to weigh
   pros/cons.  Will have pulmonary consult service follow patient as he
   goes to the floor and can decide if/when to perform bronchoscopy.